US09212190B2
NaH (60% dispersion in mineral oil, 438 mg, 10.95 mmol, 4.00 equiv) was treated with tert-butyl N-(4-hydroxycyclohexyl)carbamate (710 mg, 3.30 mmol, 1.20 equiv) in freshly distilled THF at 50° C. for 30 min under nitrogen. Then a solution of ethyl 2-[(13S)-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-13-yl]acetate (850 mg, 2.73 mmol, 1.00 equiv) in THF (10 mL) was added via syringe and stirred for 2 h at 60° C. After cooling, the reaction was quenched with brine, extracted with ethyl acetate (80 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5) to give 800 mg (60%) of ethyl 2-[(13S)-3-[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)oxy]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-13-yl]acetate as a colorless oil.

reactant | NaH | 10.95 mmol, 438 mg, 4.00 equiv | [H-].[Na+]
reactant | tert-butyl N-(4-hydroxycyclohexyl)carbamate | 3.30 mmol, 710 mg, 1.20 equiv | OC1CCC(CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | ethyl 2-[(13S)-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-13-yl]acetate | 2.73 mmol, 850 mg, 1.00 equiv | ClC=1C=2C=3[C@@H](CCCC3SC2N=CN1)CC(=O)OCC | C14H15ClN2O2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 2-[(13S)-3-[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)oxy]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-13-yl]acetate | 800 mg, 60% | C(C)(C)(C)OC(=O)NC1CCC(CC1)OC=1C=2C=3[C@@H](CCCC3SC2N=CN1)CC(=O)OCC | C25H35N3O5S
